US06605628B1
A solution of 1,4-dichloro-2-iodobenzene (20.0 g, 73.3 mmol), 4-pentyn-1-ol (6.17 g, 73.3 mmol), bistriphenylphosphine(Pd II) chloride (1.03 g, 1.47 mmol), and copper(I) iodide (0.14 g, 0.733 mmol) in 400 ml of diethylamine was stirred under nitrogen for three days. This was diluted with dichloromethane and the oily layer was adsorbed onto silica gel and eluted with hexanes-ethyl acetate (5:1) to give 5-(2,5-dichlorophenyl)pent-4-yn-1-ol, 13.7 g (82%); NMR (CDCl3) δ 1.9 (m, 2H), 2.6 (t, 2H), 3.85 (t, 2H), 7.2 (dd, 1H), 7.28 (m, 1H), 7.4 (d, 2H).

reactant | 1,4-dichloro-2-iodobenzene | 73.3 mmol, 20.0 g | ClC1=C(C=C(C=C1)Cl)I | C6H3Cl2I
reactant | 4-pentyn-1-ol | 73.3 mmol, 6.17 g | C(CCC#C)O | C5H8O
solvent | diethylamine | 400 ml | C(C)NCC | C4H11N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(I) iodide | 0.733 mmol, 0.14 g | [Cu]I
product | 5-(2,5-dichlorophenyl)pent-4-yn-1-ol | ClC1=C(C=C(C=C1)Cl)C#CCCCO | C11H10Cl2O
